US07989457B2
To a solution of [6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-methanol (120 mg, 0.47 mmol) in THF (2 mL) and toluene (4 mL) is added 1,1′-(azodicarbonyl)dipiperidine (ADDP, 179.5 mg, 0.71 mmol) at 0° C., followed by the addition of tributylphosphine (0.18 mL, 0.71 mmol) and 3-(4-hydroxy-benzoylamino)-propionic acid methyl ester (127 mg, 0.57 mmol). The reaction mixture is warmed up to room temperature and stirred overnight. The mixture is loaded on silica gel, eluted with hexanes with a gradient from 0% of ethyl acetate to 50% of ethyl acetate giving 3-{4-[6-(4-trifluoromethyl-phenyl)-pyridin-3-ylmethoxy]-benzoylamino}-propionic acid methyl ester. The ester product is taken into ethanol (2 mL), treated with sodium hydroxide (5N aqueous, 1 mL) for 3 h at room temperature. The mixture is concentrated, diluted with ethyl acetate, acidified with 5 N HCl (1.1 mL), extracted with ethyl acetate. The organic layers are dried and concentrated giving 3-{4-[6-(4-Trifluoromethyl-phenyl)-pyridin-3-ylmethoxy]-benzoylamino}-propionic acid (33 mg). MS (ES): 443.2 [M+H]−.

reactant | [6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-methanol | 0.47 mmol, 120 mg | FC(C1=CC=C(C=C1)C1=CC=C(C=N1)CO)(F)F | C13H10F3NO
reactant | 1,1′-(azodicarbonyl)dipiperidine | 0.71 mmol, 179.5 mg | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
reactant | tributylphosphine | 0.71 mmol, 0.18 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 3-(4-hydroxy-benzoylamino)-propionic acid methyl ester | 0.57 mmol, 127 mg | COC(CCNC(C1=CC=C(C=C1)O)=O)=O | C11H13NO4
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
product | 3-{4-[6-(4-trifluoromethyl-phenyl)-pyridin-3-ylmethoxy]-benzoylamino}-propionic acid methyl ester | COC(CCNC(C1=CC=C(C=C1)OCC=1C=NC(=CC1)C1=CC=C(C=C1)C(F)(F)F)=O)=O | C24H21F3N2O4
